US05149709
N-[1-Phenyl-2-(4-Aminophenyl)ethyl]-α-Phenyl-Benzeneacetamide
2-(4-aminophenyl)-1-phenylethylamine (0.40 g, 1.9 mMol) and diphenylacetic acid (0.40 g, 1.9 mMol) were dissolved in dimethylformamide (DMF) (4 mL) at room temperature. To this was added HOBT (0.26 g, 1.9 mMol), NMM (0.19 g, 1.9 mMol) and EDCl (0.36 g) and the mixture was stirred at room temperature for 18 hours. The DMF was removed under vacuum and the oily residue was taken up in 100 mL ethyl acetate. The ethyl acetate was washed with saturated sodium bicarbonate and with brine, dried over magnesium sulfate, and evaporated to give 0.683 grams of a semi-solid. This was purified on 30 grams of flash-grade silica gel eluting with 100% dichloromethane to give 0.512 grams of the title compound, m.p. 161°-163° C.

reactant | 2-(4-aminophenyl)-1-phenylethylamine | 1.9 mMol, 0.40 g | NC1=CC=C(C=C1)CC(C1=CC=CC=C1)N | C14H16N2
reactant | diphenylacetic acid | 1.9 mMol, 0.40 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | HOBT | 1.9 mMol, 0.26 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 1.9 mMol, 0.19 g | CN1CCOCC1 | C5H11NO
reactant | EDCl | 0.36 g | CCN=C=NCCCN(C)C.Cl
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-[1-Phenyl-2-(4-Aminophenyl)ethyl]-α-Phenyl-Benzeneacetamide | 0.683 grams | C1(=CC=CC=C1)C(CC1=CC=C(C=C1)N)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H26N2O
